US06528656B1
Synthesis of Ethyl 2-Methylpyrrolidin-2-ylmethylphosphinate of Formula
0.8 g (7.4 mmol) of ethyl methylphosphinate of formula (CH3)(H)P(O)OC2H5 and 488 mg (8 mmol) of triethylamine are dissolved in 20 ml of anhydrous methylene chloride and cooled to 0° C. 0.87 g (8 mmol) of trimethylsilyl chloride is then added. The formation of the intermediate P(OSiMe3)(OEt)(Me) is virtually instantaneous. 0.63 g (7.6 mmol) of 2-methylpyrroline of formula:

reactant | ethyl methylphosphinate | 7.4 mmol, 0.8 g | CP(OCC)=O | C3H9O2P
reactant | triethylamine | 8 mmol, 488 mg | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl chloride | 8 mmol, 0.87 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | 2-methylpyrroline | 7.6 mmol, 0.63 g | CC=1NCCC1 | C5H9N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 2-Methylpyrrolidin-2-ylmethylphosphinate | CC1(NCCC1)CP(OCC)=O | C8H18NO2P
